US09023760B2
Step 2: Preparation of 4-benzyloxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P3.5)
To a solution of 4-benzyloxy-8-methoxy-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (40.0 g, 98.4 mmol) in tetrahydrofuran (500 ml) at 0° C. was added a 1.0 M solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (108.3 ml, 108.3 mmol) dropwise over one hour. The mixture was stirred at 0° C. for 30 minutes and at room temperature for 30 minutes, then treated with methyl iodide (6.75 ml, 15.4 g, 108.2 mmol) dropwise at 0° C. over 10 minutes. Stirring was continued at room temperature overnight and the reaction mixture was quenched with cold saturated aqueous ammonium chloride. The layers were separated, the aqueous phase extracted twice with ethyl acetate, the combined organic phases washed with brine, dried over sodium sulfate and concentrated. The residue was suspended in diethyl ether, stirred for 30 minutes, filtered and dried. Yield: 28.6 g of 4-benzyloxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one (compound P3.5) as a solid, mp 139-141° C.

reactant | 4-benzyloxy-8-methoxy-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | 98.4 mmol, 40.0 g | C(C1=CC=CC=C1)OC1=C(C(NC12CCN(CC2)OC)=O)C2=C(C=C(C=C2C)C)C | C25H30N2O3
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | methyl iodide | 108.2 mmol, 6.75 ml, 15.4 g | CI | CH3I
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 108.3 mmol, 108.3 ml | O1CCCC1 | C4H8O
product | 4-benzyloxy-8-methoxy-1-methyl-3-(2,4,6-trimethyl-phenyl)-1,8-diaza-spiro[4.5]dec-3-en-2-one | C(C1=CC=CC=C1)OC1=C(C(N(C12CCN(CC2)OC)C)=O)C2=C(C=C(C=C2C)C)C | C26H32N2O3
